US07253174B2
(b) Synthesis of 3-{5-Cyano-6-[(2,2-dimethyl-propyl)-methyl-amino]-3-fluoro-pyridin-2-ylamino}-N-methoxy-4-methyl-benzamide
A mixture of 3-(6-chloro-5-cyano-3-fluoro-pyridin-2-ylamino)-N-methoxy-4-methyl-benzamide (55.6 mg, 0.166 mmol), N-methyl-neopentylamine (70 mg, 0.511 mmol), diisopropylethylamine (0.1 mL) and potassium fluoride (12 mg) in DMSO (1 mL) was heated to 150° C. overnight. The product (3.9 mg, 5.9%) was isolated after purification by HPLC. C21H26FN5O2 MS m/e=400 (M+H).

reactant | 3-(6-chloro-5-cyano-3-fluoro-pyridin-2-ylamino)-N-methoxy-4-methyl-benzamide | 0.166 mmol, 55.6 mg | ClC1=C(C=C(C(=N1)NC=1C=C(C(=O)NOC)C=CC1C)F)C#N | C15H12ClFN4O2
reactant | N-methyl-neopentylamine | 0.511 mmol, 70 mg | CNCC(C)(C)C | C6H15N
reactant | diisopropylethylamine | 0.1 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | potassium fluoride | 12 mg | [F-].[K+]
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | 3-{5-Cyano-6-[(2,2-dimethyl-propyl)-methyl-amino]-3-fluoro-pyridin-2-ylamino}-N-methoxy-4-methyl-benzamide | 3.9 mg, 5.9% | C(#N)C=1C=C(C(=NC1N(C)CC(C)(C)C)NC=1C=C(C(=O)NOC)C=CC1C)F | C21H26FN5O2
